US04466916
C. Preparation of 3,3,6,6-tetramethyl-2-piperazinone
In a manner analogous to that described in example 3A above, 2,methyl-1,2-diaminopropane, water and acetone cyanohydrin are reacted, and the reaction product recovered. When dissolved in acetone and recrystallized it is identified as 3,3,6,6-tetramethyl-2-piperazinone.

reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
reactant | water | O | H2O
product | 3,3,6,6-tetramethyl-2-piperazinone | CC1(C(NC(CN1)(C)C)=O)C | C8H16N2O
